US07799814B2
In a flask, is dissolved 5-(4-nitrophenyl)-1,3,4-oxadiazol-2-ol (4.50 g; 21.72 mmol; 1 eq.) in MeOH (150 ml) under inert atmosphere. Palladium 10% on charcoal (2.31 g; 2.17 mmol; 0.10 eq.) is added and the reaction mixture is stirred 5 minutes at rt. The mixture is then put under atmospheric pressure of hydrogen. The reaction is completed after 2 hours. The mixture is filtrated on celite and rinced with MeOH. The solvents are evaporated under vacuo, affording 5-(4-aminophenyl)-1,3,4-oxadiazol-2-ol as a white powder (2.34 g; 61%).

reactant | 5-(4-nitrophenyl)-1,3,4-oxadiazol-2-ol | 21.72 mmol, 4.50 g, 1 eq. | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN=C(O1)O | C8H5N3O4
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 150 ml | CO | CH4O
catalyst | Palladium | [Pd] | Pd
product | 5-(4-aminophenyl)-1,3,4-oxadiazol-2-ol | NC1=CC=C(C=C1)C1=NN=C(O1)O | C8H7N3O2
